US08383833B2
(1S)-1-Methyl-2-oxo-2-tetrahydro-1-H-1-pyrrolylethyl N-benzylhexahydro-2-pyridinecarboxylate
To 1-methyl-2-oxo-2-tetrahydro-1-H-1-pyrrolylethyl 2,6-dibromohexanoate (295 mg, 0.75 mmol), NaI (225 mg, 1.5 mmol) and tetrahydrofuran (4 mL) were added. The mixture was stirred at 40° C. for 1.5 hours. Next, triethylamine (84 mg, 0.83 mmol), benzylamine (97 mg, 0.90 mmol) and tetrahydrofuran (4 mL) were added thereto. The mixture was stirred at 20° C. for 15 hours. It was confirmed with NMR analysis of the reaction solution that the conversion ration was 83% and the diastereo ratio calculated from the NMR analysis was 79:21.

reactant | 1-methyl-2-oxo-2-tetrahydro-1-H-1-pyrrolylethyl 2,6-dibromohexanoate | 0.75 mmol, 295 mg | BrC(C(=O)OC(C(N1CCCC1)=O)C)CCCCBr | C13H21Br2NO3
reactant | NaI | 1.5 mmol, 225 mg | [Na+].[I-]
reactant | triethylamine | 0.83 mmol, 84 mg | C(C)N(CC)CC | C6H15N
reactant | benzylamine | 0.90 mmol, 97 mg | C(C1=CC=CC=C1)N | C7H9N
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | (1S)-1-Methyl-2-oxo-2-tetrahydro-1-H-1-pyrrolylethyl N-benzylhexahydro-2-pyridinecarboxylate | C(C1=CC=CC=C1)N1C(CCCC1)C(=O)O[C@H](C(N1CCCC1)=O)C | C20H28N2O3
